US07868003B2
1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-methyl-1,3-dihydroimidazol-2-one hydrochloride
(R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine (enantiomer B, preparation as described in WO2004085404), 4-nitrophenyl chloroformate and methylaminoacetaldehyde dimethyl acetal were reacted analogously to example 40, and the resulting intermediate (85 mg) was subsequently cyclized with a mixture of water (1 ml) and 10% hydrochloric acid (3.2 ml). Workup and purification were analogous to example 40. 65 mg of the title compound were isolated.

reactant | (R)-2-(6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylamine | ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N | C16H16Cl2N2
reactant | 4-nitrophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | methylaminoacetaldehyde dimethyl acetal | COC(CNC)OC | C5H13NO2
reactant | hydrochloric acid | 3.2 ml | Cl | ClH
solvent | water | 1 ml | O | H2O
product | 1-[2-((R)-6,8-Dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenyl]-3-methyl-1,3-dihydroimidazol-2-one hydrochloride | 65 mg | Cl.ClC=1C=C2[C@@H](CN(CC2=C(C1)Cl)C)C1=C(C=CC=C1)N1C(N(C=C1)C)=O | InChI=1S/C20H19Cl2N3O.ClH/c1-23-11-16(15-9-13(21)10-18(22)17(15)12-23)14-5-3-4-6-19(14)25-8-7-24(2)20(25)26;/h3-10,16H,11-12H2,1-2H3;1H/t16-;/m0./s1
